US06936632B2
a) 5-Chloro-6-(4-fluorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine
The clear solution of 6-(4-fluorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine (Example 8 d, 2.77 g, 10 mmol) in THF (20 ml) is treated at RT with N-chlorosuccinimide (NCS, 1.34 g, 10 mmol). The solution, immediately turning from yellow to black-coloured with spontaneous heating, is stirred for a further 10 min, then adsorbed on an Al2O3 column (100 g, TSC-ICI), and the substance sought is eluted with ethyl acetate-n-hexane 1:9 (Rf=0.8, starting material Rf=0.6). The eluate fractions are concentrated in vacuo and the residue is crystallized from diisopropyl ether: 1.63 g (52%)

reactant | 6-(4-fluorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine | 10 mmol, 2.77 g | FC1=CC=C(C=C1)C1=CN2CCCC2=C1C1=CC=CC=C1 | C19H16FN
reactant | N-chlorosuccinimide | 10 mmol, 1.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-Chloro-6-(4-fluorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine | ClC=1N2CCCC2=C(C1C1=CC=C(C=C1)F)C1=CC=CC=C1 | C19H15ClFN
